### PR TITLE
feat(Analysis/SpecialFunctions/Trigonometric/Sinc): add bounds and classical limits for sinc

### PR DESCRIPTION
**Pull request by attilavjda**
Add bounds for `sinc` and classical trigonometric limits.

* `cos x ≤ sin x / x ≤ 1` for `|x| < π / 2`
* `sinc` is positive on `(-π, π)`
* `lim_{x → 0} (sin x) / x = 1`
* `lim_{x → 0} (tan x) / x = 1`
* `lim_{x → 0} (1 - cos x) / x = 0`

The sine and cosine limits are added to `Deriv.lean`, the real tangent limit to `ArctanDeriv.lean`, and the complex tangent limit to `ComplexDeriv.lean`. The corresponding complex sine and cosine limits are also included.

Used Aristotle AI to develop these proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
I'm surprised that we didn't have the limit of `sin x / x` at 0, I thought lots of basic proofs needed that.

Can you move the sin/cos limits to `SpecialFunctions/Trigonometric/Deriv` and the tan limit to `SpecialFunctions/Trigonometric/ArctanDeriv`, and add the matching complex versions?

**Comment by attilavjda** [comment]
> I'm surprised that we didn't have the limit of `sin x / x` at 0, I thought lots of basic proofs needed that.
> 
> Can you move the sin/cos limits to `SpecialFunctions/Trigonometric/Deriv` and the tan limit to `SpecialFunctions/Trigonometric/ArctanDeriv`, and add the matching complex versions?

Sure

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean [hunk 1]
```diff
@@ -90,4 +93,25 @@ lemma continuous_sinc : Continuous sinc := by
   · rw [continuousAt_dslope_of_ne hx]
     fun_prop
 
+/-- For `|x| < π / 2` we have `cos x ≤ sinc x`, and together with
+`sinc_le_one` this gives the squeeze `cos x ≤ sin x / x ≤ 1`. -/
+lemma cos_le_sinc (hx : |x| < π / 2) : cos x ≤ sinc x := by
+  wlog hx₀ : 0 ≤ x generalizing x
+  · simpa using this (x := -x) (by simpa using hx) (by linarith [not_le.mp hx₀])
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean]:
```suggestion
  · grind [sinc_neg, cos_neg]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean [hunk 2]
```diff
@@ -90,4 +93,25 @@ lemma continuous_sinc : Continuous sinc := by
...
+  · simp
+  have hx' := (abs_lt.mp hx).2
+  have hc : 0 < cos x := cos_pos_of_mem_Ioo ⟨by linarith [pi_pos], hx'⟩
+  rw [sinc_of_ne_zero hx₀.ne', le_div_iff₀ hx₀, ← tan_mul_cos hc.ne', mul_comm]
+  exact mul_le_mul_of_nonneg_right (le_tan hx₀.le hx') hc.le
+
+/-- The function `sinc` is positive on `(-π, π)`. -/
+lemma sinc_pos (hx : |x| < π) : 0 < sinc x := by
+  wlog hx₀ : 0 ≤ x generalizing x
+  · simpa using this (x := -x) (by simpa using hx) (by linarith [not_le.mp hx₀])
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean]:
```suggestion
  · grind [sinc_neg]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean [hunk 3]
```diff
@@ -90,4 +93,25 @@ lemma continuous_sinc : Continuous sinc := by
...
+`sinc_le_one` this gives the squeeze `cos x ≤ sin x / x ≤ 1`. -/
+lemma cos_le_sinc (hx : |x| < π / 2) : cos x ≤ sinc x := by
+  wlog hx₀ : 0 ≤ x generalizing x
+  · simpa using this (x := -x) (by simpa using hx) (by linarith [not_le.mp hx₀])
+  obtain rfl | hx₀ := hx₀.eq_or_lt
+  · simp
+  have hx' := (abs_lt.mp hx).2
+  have hc : 0 < cos x := cos_pos_of_mem_Ioo ⟨by linarith [pi_pos], hx'⟩
+  rw [sinc_of_ne_zero hx₀.ne', le_div_iff₀ hx₀, ← tan_mul_cos hc.ne', mul_comm]
+  exact mul_le_mul_of_nonneg_right (le_tan hx₀.le hx') hc.le
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Sinc.lean]: I won't require this, but I think that it could make sense to add the following tags (on the declarations themselves):
```lean
attribute [grind =] tan_mul_cos sinc_of_ne_zero
```
And with those, you can write:
```suggestion
  have hc : 0 < cos x := cos_pos_of_mem_Ioo <| by grind
  suffices x * cos x ≤ tan x * cos x by rw [← le_div_iff₀' hx₀] at this; grind
  grw [le_tan hx₀.le (abs_lt.mp hx).2]
```

**Review by j-loreaux — COMMENTED** [review]
These lemmas won't be so necessary once the (hopefully 🤞) soon-to-arrive `compute_asymptotics` tactic is available. However, we can add them because they are very standard limits, and it might be worthwhile to have them stated precisely for convenience.

**Comment by attilavjda** [comment]
> These lemmas won't be so necessary once the (hopefully 🤞) soon-to-arrive `compute_asymptotics` tactic is available. However, we can add them because they are very standard limits, and it might be worthwhile to have them stated precisely for convenience.

Okay, thanks for the suggested changes!
